US06774082B2
Preparation of 9,13-Dithia-3,6,16,19-tetraoxaheneicosane-1,21-diol Ditosylate
To 20 ml of methylene chloride and 5.1 g of triethylamine was added 5.6 g of 9,13-dithia-3,6,16,19-tetraoxaheneicosane 1,21-diol. Then 6.1 g of p-toluenesulfonyl chloride at 0° to 5° C. in 20 ml of methylene chloride was added dropwise. The mixture was stirred overnight at room temperature and then was washed with 50 ml of water. The organic layer was dried over MgSO4. After filtration, the solvent from the filtrate was evaporated and the residue was purified using silica gel column chromatography (CH2Cl2/CH3COCH3) (50:1 v/v). About 8 g (78%) of 9,13-dithia-3,6,16,19-tetraoxaheneicosane-1,21-diol ditosylate was collected. The process step for obtaining this composition is shown schematically below:

reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
reactant | 9,13-dithia-3,6,16,19-tetraoxaheneicosane 1,21-diol | 5.6 g | C(COCCOCCSCCCSCCOCCOCCO)O | C15H32O6S2
reactant | p-toluenesulfonyl chloride | 6.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 9,13-Dithia-3,6,16,19-tetraoxaheneicosane-1,21-diol Ditosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCSCCCSCCOCCOCCOS(=O)(=O)C1=CC=C(C)C=C1 | C29H44O10S4
